US04683331
4-(2',4'-difluorobiphenylyl)-2-methyl-4-oxo butanoic acid
A solution is prepared by dissolving 33.2 g anhydrous aluminum chloride (0.25 moles) and 21.6 g methylsuccinic acid anhydride (0.188 moles) in 190 ml of 1,2-dichloroethane. The solution is cooled to 15° C. and is treated under stirring and cooling with a solution of 47.5 g of 2,4-difluorobiphenyl (0.25 moles) in 50 ml of 1,2-dichloroethane, at a rate such that the temperature of the reaction mixture does not exceed 20° C. The mixture is then stirred for an additional 3 hours at 20° C., for 1 hour at 40° to 45° C., is cooled to 20° C., and is then poured slowly, under stirring, into a mixture of 500 g ice in 250 ml of concentrated hydrochloric acid. The resulting precipitate is collected on a filter, and the organic layer of the filtrate is separated and washed with 5% aqueous sodium hydroxide solution (4×100 ml). The alkaline extracts are combined and the precipitate is dissolved in the extracts. A moderately turbid solution is obtained, which is filtered with active carbon to obtain a clear filtrate. The clear filtrate is acidified to approximately pH 1 with 50% sulfuric acid. The crude product precipitate is separated, washed with water, and purified by crystalization from 160 ml of 65% acetic acid, to yield 24.0 g of the title compound (42% of theoretical yield) with a melting point of 150°-152° C.

reactant | aluminum chloride | 0.25 moles, 33.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | methylsuccinic acid anhydride | 0.188 moles, 21.6 g | CC1C(=O)OC(C1)=O | C5H6O3
reactant | 2,4-difluorobiphenyl | 0.25 moles, 47.5 g | FC1=C(C=CC(=C1)F)C1=CC=CC=C1 | C12H8F2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | 1,2-dichloroethane | 190 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
solvent | hydrochloric acid | 250 ml | Cl | ClH
product | 4-(2',4'-difluorobiphenylyl)-2-methyl-4-oxo butanoic acid | 24.0 g, 42% | FC1=C(C=CC(=C1)F)C1=C(C=CC=C1)C(CC(C(=O)O)C)=O | C17H14F2O3
